US07465719B2
Methyl 4-[1-(chlorocarbonyl)cyclohexyl]benzoate (E17)
To a solution of 1-[4-(methoxycarbonyl)phenyl]-cyclohexanecarboxylic acid (E14) (0.174 g, 0.66 mmol) in dry dichloromethane (4 ml) under argon atmosphere at ice bath temperature oxalyl chloride (0.648 g, 5.10 mmol) and one drop of dimethylformamide were added. The reaction mixture was stirred at room temperature for 15 minutes and at 40° C. for one hour, then concentrated under reduced pressure to give crude title compound (0.187 g, ca. 100%). The crude product was immediately utilized in the next step of the synthesis without further purification.

reactant | 1-[4-(methoxycarbonyl)phenyl]-cyclohexanecarboxylic acid | 0.66 mmol, 0.174 g | COC(=O)C1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C15H18O4
reactant | oxalyl chloride | 5.10 mmol, 0.648 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | Methyl 4-[1-(chlorocarbonyl)cyclohexyl]benzoate | 0.187 g, ca. 100% | ClC(=O)C1(CCCCC1)C1=CC=C(C(=O)OC)C=C1 | C15H17ClO3
